Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
difficulty forming words, hand tingling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with cardiac history  on DAPT who
presents with left hand numbness/tingling and difficulty forming
words, found to have small R convexal SAH.

Yesterday was watching TV and she saw people walking by on her
left, though this was inside her house and there was just a wall
there. The people would walk by very quickly. She clarifies that
it was the same person walking by: a woman who was not tall with
grey hair. There was no associated noise/auditory phenomena. 
This
lasted <1 minute, and ended when she turned her body more to the
right so she could no longer see the wall. She was then directly
facing the TV in the room. She has never hallucinated before. 

Today Ms. ___ woke up at 0730 and was feeling well. She first
noticed something was wrong the first time she spoke, which was
speaking with daughter in law. Ms. ___ had trouble getting
words out, clarified to mean not word-finding, but difficulty
making her mouth form the words. She thinks her speech is now
pretty much back to normal, though possibly still a bit
difficulty to get words out. 

She also notes left hand numbness, which she thinks started this
morning, though she thinks it could have started late last 
night.
She noticed it when she tried to pick up a piece of paper but 
had
difficulty. There are associated paresthesiae in the hand. 

She endorses R frontal pressure-like headache, at times radiates
across forehead. This is a chronic headache followed by 
Neurology
Dr. ___. No change in headache over the past several days. 
She
thinks it may have gotten intense in severity yesterday ___, 
which
also happens occasionally.  

 
Past Medical History:
Basal cell carcinoma of neck 
Squamous cell carcinoma 
Hyperlipidemia 
Essential hypertension 
Actinic keratosis 
Osteoarthritis 
Osteopenia 
CAD s/p stenting ___ (Cardiologist Dr. ___
moderately increase LA volume index on TTE ___
unstable angina pectoris 
Neck pain 
Moderate aortic stenosis with valve area 0.9 cm2.
Moderate pulm art systolic hypertension
s/p cataract surgery OS, pt unsure if done OD
 
Social History:
___
Family History:
Father d. of stomach cancer
Mother d. of CHF
Maternal uncle d. of stomach cancer. 
MGM with stroke, details unknown 
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals:  T: 98 HR: ___ BP: 107-156/63-108 RR: ___ SaO2: 98%
RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. Arthritic deformities both
hands. 

Neurologic Examination:
- Mental status: Awake, alert, oriented to ___,
___. Able to relate history with some difficulty (at 
times
is vague about timeline of events). Attentive, able to name ___
backward without difficulty. Speech is fluent with normal 
grammar
and syntax. No paraphasic errors. Naming intact to low frequency
words. Repetition intact. Comprehension intact to complex,
cross-body commands. Normal prosody.  

-Cranial Nerves: Pupils both slightly irregular. 3->2.5 OD, 3->2
OS. VFF to confrontation. Subtle decreased abduction OS at
extreme leftgaze with pt reporting horizontal diplopia, 
unchanged
from baseline. Facial sensation intact to light touch. Face
symmetric at rest and with activation. Hearing intact to
conversation. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline and moves
briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. L pronation and slight upward
drift. No tremor nor asterixis. No pseudoathetosis. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5-  5    4+ 5                  
R  5    ___   ___  5-  5    4+ 5                 
Subtle weakness L worse than right ADM (4 range)

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    3    1   0                        
 R  3  2    3    1   0                           
Plantar response was flexor bilaterally.

-Sensory: Decreased sensation to LT and PP over part of L hand.
To LT it is 75% of normal, and PP is absent in this area. The
area encompasses the left thumb and the radial aspect of the
dorsum of the left hand. The second digit has normal sensation.
Proprioception impaired L thumb. Unable to sense maximal
movements at the IP joint. At the MCP joint she is able to feel
medium but not the smallest movements. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: deferred

DISCHARGE PHYSICAL EXAM
=======================
Gen: comfortable, no distress, pleasant
HEENT: neck supple, no oral lesions
Pulm: normal work of breathing
Card: regular rate rhythm
Abd: soft, nontender, nondistended
Extremities: warm, no edema

Neuro:
Awake and alert, oriented to person, place, date, able to 
recount
history without difficulty, speech is fluent, no paraphasic
errors, follows simple commands.

-Cranial Nerves: Pupils both slightly irregular. 3->2.5 OD, 3->2
OS. VFF to confrontation. Diplopia left gaze (chronic). Facial
sensation intact to light touch. Face symmetric at rest and with
activation. Hearing intact to conversation. Palate elevates
symmetrically. ___ strength in trapezii bilaterally. Tongue
protrudes in midline and moves briskly to each side. No
dysarthria. 

- Motor:  Normal bulk and tone. No pronation.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA
L  5    ___   ___  5   5    5   5                  
R  5    ___   ___  5   5    5   5

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    3    1   0                        
 R  3  2    3    1   0                           
Plantars flexor bilaterally

Gait: narrow based
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:34PM BLOOD WBC-6.0 RBC-3.81* Hgb-12.2 Hct-35.1 
MCV-92 MCH-32.0 MCHC-34.8 RDW-12.5 RDWSD-42.5 Plt ___
___ 12:34PM BLOOD Neuts-62.8 ___ Monos-7.5 Eos-0.3* 
Baso-0.2 Im ___ AbsNeut-3.77 AbsLymp-1.74 AbsMono-0.45 
AbsEos-0.02* AbsBaso-0.01
___ 12:34PM BLOOD Plt ___
___ 12:34PM BLOOD ___ PTT-24.3* ___
___ 11:36PM BLOOD Glucose-87 UreaN-9 Creat-0.5 Na-131* 
K-4.0 Cl-95* HCO3-23 AnGap-13
___ 12:34PM BLOOD Glucose-106* UreaN-11 Creat-0.6 Na-129* 
K-3.7 Cl-91* HCO3-20* AnGap-18
___ 12:34PM BLOOD ALT-17 AST-24 AlkPhos-81 TotBili-1.3
___ 12:34PM BLOOD cTropnT-<0.01
___ 12:34PM BLOOD Albumin-4.1 Calcium-9.6 Phos-2.3* Mg-1.3*
___ 11:36PM BLOOD Osmolal-263*
___ 11:36PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:34PM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
___ 01:38PM BLOOD Lactate-2.1*

DISCHARGE LABS
==============
___ 06:05AM BLOOD WBC-4.8 RBC-3.45* Hgb-10.9* Hct-32.3* 
MCV-94 MCH-31.6 MCHC-33.7 RDW-13.0 RDWSD-44.6 Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD ___ PTT-26.9 ___
___ 06:05AM BLOOD Glucose-93 UreaN-12 Creat-0.6 Na-134* 
K-4.2 Cl-101 HCO3-23 AnGap-10
___ 06:05AM BLOOD Calcium-8.5 Phos-3.0 Mg-1.5*

IMAGING
=======
CTA HEAD W&W/O C & RECONS Study Date of ___  
IMPRESSION:
1. No evidence of high-grade stenosis, occlusion, aneurysm, or 
dissection 
involving the great vessels of the head or neck. 
2. Stable appearance of small volume subarachnoid blood located 
in the right frontal region at the approximate location of the 
right middle frontal gyrus, and adjacent small subdural hematoma 
along the right frontoparietal convexity measuring up to 5 mm. 
3. Mild to moderate atherosclerotic disease, as described above. 

4. 9 mm hypodense nodule within the right thyroid lobe.  If this 
finding is not previously known and no previous imaging has been 
obtained, then would recommend dedicated follow-up thyroid 
ultrasound as an outpatient on a nonemergent basis.
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a past medical history of 
CAD s/p stents ___, on ASA and plavix), HLD, HTN, cataracts 
s/p surgery who presented with one day of difficulty forming 
words, left hand parasthesias, transient visual hallucination, 
found to have frontal subarachnoid hemorrhage and small right 
frontoparietal convexity subdural hematoma, nonsurgical per 
Neurosurgical evaluation. History notable for hitting head on 
door one week prior, information which that was not provided to 
us initially despite inquiring about it. MRI with no change in 
hemorrhage. Etiology most suspicious for trauma. However, CAA is 
also in the differential. Exam notable for chronic left gaze 
diplopia, intermittently left index finger tingling which 
resolved at discharge. Her visual hallucination, which did not 
reoccur in the hospital, is not clearly understood, low 
suspicion for seizure but is at risk given potential for 
cortical irritation from hemorrhage. Given its resolution, AED 
and EEG were deferred. After discussion with outpatient 
cardiologist, decision made to stop plavix and restart aspirin 
in one week.

TRANSITIONAL ISSUES
===================
[] restart aspirin 81 mg daily 1 week after discharge (___)
[] STOP Plavix, no longer needed

AHA/ASA Core Measures for Intracerebral Hemorrhage 
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why: 
2. DVT Prophylaxis administered? () Yes - (x) No. If no, why not 
(bleeding risk, hemorrhage, etc.) BLEEDING RISK
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No 
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. irbesartan 150 mg oral DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Potassium Chloride 10 mEq PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
Do not start until ___.  Atorvastatin 40 mg PO QPM  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  irbesartan 150 mg oral DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Potassium Chloride 10 mEq PO DAILY 
Hold for K >  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
subarachnoid hemorrhage
subdural hemorrhage
cerebral amyloid angiopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of difficulty forming 
words, tingling in your hands, resulting from an ACUTE CEREBRAL 
HEMORRHAGE, which is a small area of bleeding in your brain. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage bleeding in the brain can 
result in a variety of symptoms.

Cerebral hemorrhage can have many different causes. In your case 
it could have resulted from small trauma to your head that you 
suffered several days ago. In addition, you might have an 
underlying condition called cerebral amyloid angiopathy which is 
common in your age group and predisposes to bleeding. However, 
your MRI of your brain did not show any obvious evidence of 
this. 

We are changing your medications as follows:
 1) please STOP Plavix (clopidigrel)
 2) please restart your aspirin one week after discharge 
(___)

Please take your other medications as prescribed.
Please follow up with your doctors as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___